US04479826
A. Sulfonation and Polymerization of Xylene Sulfonic Acid
In a similar reactor as described in Example 47, there was charged 106 grams of xylene (1.0 mole). There was added with fast stirring, 150 grams of fuming H1SO4 (20% SO3) at 20°-40° C. over a period of two hours. Next, the reaction was heated at 90°-95° C. for 2.25 hours. It was then cooled to room temperature and 138.0 grams of water was added at 30°-40° C. Then to 200 grams of sulfonation product (0.508 mole) was added 20.5 grams of 37% formaldehyde (0.254 mole) and heated to reflux (110° C.) for eight hours. At the end of this period, all formaldehyde was reacted as determined via standard Na2SO3 titration procedure.

reactant | xylene | 1.0 mole, 106 grams | C=1(C(=CC=CC1)C)C | C8H10
reactant | formaldehyde | 0.254 mole, 20.5 grams | C=O | CH2O
reactant | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
solvent | water | 138.0 grams | O | H2O
product | Xylene Sulfonic Acid | C1(C(C=CC=C1)C)(C)S(=O)(=O)O | C8H12O3S
